US06638929B2
A mixture of 248 mg (0.714 mmol) of 4-chloro-7-methoxy-8-(2-chloroethoxy)benzo[g]quinoline-3-carbonitrile and 4-chloro-8-methoxy-7-(2-chloroethoxy)benzo[g]quinoline-3-carbonitrile (1:1 mixture), 10 mg of pyridine hydrochloride, 150 mg (0.874 mmol) of 4-chloro-5-methoxy-2-methylaniline and 5 mL of 2-ethoxyethanol is stirred and heated to 135° C. After 1 hour, the reaction is cooled to room temperature, quenched with 0.2 mL of triethylamine and concentrated in vacuo. The residue is dissolved in 1:1 hexane/ethyl acetate with a little dichloromethane and chromatographed on silica gel eluting with 1:1 hexane/ethyl acetate, then ethyl acetate to provide 0.282 g of 4-(4-chloro-5-methoxy-2-methylanilino)-7-methoxy-8-(chloroethoxy)benzo[g]quinoline-3-carbonitrile and 4-(4-chloro-5-methoxy-2-methylamino)-8-methoxy-7-(chloroethoxy)benzo[g]quinoline-3-carbonitrile (1:1 mixture) as a dull yellow solid (81%), m.p. 132-68° C. dec.

reactant | 4-chloro-7-methoxy-8-(2-chloroethoxy)benzo[g]quinoline-3-carbonitrile | 0.714 mmol, 248 mg | ClC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)OCCCl)OC)C#N | C17H12Cl2N2O2
reactant | 4-chloro-8-methoxy-7-(2-chloroethoxy)benzo[g]quinoline-3-carbonitrile | ClC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)OC)OCCCl)C#N | C17H12Cl2N2O2
reactant | pyridine hydrochloride | 10 mg | Cl.N1=CC=CC=C1
reactant | 4-chloro-5-methoxy-2-methylaniline | 0.874 mmol, 150 mg | ClC1=CC(=C(N)C=C1OC)C | C8H10ClNO
reactant | 2-ethoxyethanol | 5 mL | C(C)OCCO | C4H10O2
product | 4-(4-chloro-5-methoxy-2-methylanilino)-7-methoxy-8-(chloroethoxy)benzo[g]quinoline-3-carbonitrile | 0.282 g | ClC1=CC(=C(NC2=C(C=NC3=CC4=C(C=C23)C=C(C(=C4)OCCCl)OC)C#N)C=C1OC)C | C25H21Cl2N3O3
